US04699926
2,3-Dichloro-4-acryloylphenol (4.85 g, 0.0224 mole), iodoacetic acid (4.5 g, 0.24 mole), potassium carbonate (3.33 g, 0.024 mole) and acetone (200 ml) were united, stirred and refluxed for 20 hours. The reaction mixture was cooled and the solid removed by filtration, dissolved in water (100 ml) and acidified to a pH of 1 with concentrated hydrochloric acid. The material that separated was extracted with chloroform, the organic layer removed, washed with water, dried over MgSO4, filtered and the solvent removed by evaporation in vacuo. The residue was recrystallized from carbon tetrachloride to give 2.2 g of (2,3-dichloro-4-acryloylphenoxy)-acetic acid, m.p. 111°-113° C.

reactant | 2,3-Dichloro-4-acryloylphenol | 0.0224 mole, 4.85 g | ClC1=C(C=CC(=C1Cl)C(C=C)=O)O | C9H6Cl2O2
reactant | iodoacetic acid | 0.24 mole, 4.5 g | ICC(=O)O | C2H3IO2
reactant | potassium carbonate | 0.024 mole, 3.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | (2,3-dichloro-4-acryloylphenoxy)-acetic acid | 2.2 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C=C)=O | C11H8Cl2O4
